** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/tmp/spin_test.sch
**.subckt spin_test
x1 sens_ibias sens_ap sens_bp sens_an sens_bn o1 phi1 sp1 o2 phi2 sp2 o3 sp3 phi3 sp4 o4 phi4 vdd vss ia_vin_p ia_vin_n
+ spinning_current_gen_bhv
x3 sens_ap sens_bp sens_an sens_bn net1 0 hall_plate_bhv
x2 vdd vss clk sp1 o1 phi1 sp2 o2 phi2 o3 sp3 phi3 o4 sp4 phi4 reset_n clk_gen
V1 clk vss PULSE(0 1.8 0 1n 1n {clkper/2} {clkper})
V3 vdd vss 3.3
V4 vss 0 0
V2 reset_n vss PULSE(0 1.8 10n 1n 1n 1 2)
V5 net1 0 0.1
XM1 sens_ibias net2 vfb vdd pfet_03v3 L=0.28u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
R1 vdd vfb 1
E1 net2 0 vset vfb 100
V6 vdd vset 1e-3
E2 ia_vout_p vss ia_vin_p vss 100
E3 ia_vout_n vss ia_vin_n vss 100
x4 chop_phi1 vss ia_vout_p chop_phi2 ia_vout_n vout_p vout_n chopper_bhv
C1 vout_n vss 1p
C2 vout_p vss 1p
x5 o1 o3 chop_phi1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x6 o2 o4 chop_phi2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
**** begin user architecture code

.param clkper=2u
.options method=gear
.tran 1n 100u uic


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical
.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice

**** end user architecture code
**.ends

* expanding   symbol:  spinning_current_gen_bhv/spinning_current_gen_bhv.sym # of pins=21
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/spinning_current_gen_bhv/spinning_current_gen_bhv.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/spinning_current_gen_bhv/spinning_current_gen_bhv.sch
.subckt spinning_current_gen_bhv sens_ibias sens_ap sens_bp sens_an sens_bn o1 phi1 sp1 o2 phi2 sp2 o3 sp3 phi3 sp4 o4 phi4 vdd
+ vss sens_vout_p sens_vout_n
*.iopin sens_ap
*.iopin sens_bp
*.iopin sens_an
*.iopin sens_bn
*.iopin phi1
*.iopin phi2
*.iopin phi3
*.iopin phi4
*.iopin sp1
*.iopin sp2
*.iopin sp3
*.iopin sp4
*.iopin o1
*.iopin o2
*.iopin o3
*.iopin o4
*.iopin sens_ibias
*.iopin sens_vout_p
*.iopin sens_vout_n
*.iopin vdd
*.iopin vss
S1 sens_ibias sens_ap phi1 vss SW1
S2 sens_ibias sens_bp phi2 vss SW1
S3 sens_ibias sens_an phi3 vss SW1
S4 sens_ibias sens_bn phi4 vss SW1
S5 sens_ap vss phi3 vss SW1
S6 sens_bp vss phi4 vss SW1
S7 sens_an vss phi1 vss SW1
S8 sens_bn vss phi2 vss SW1
S9 sens_vout_p sens_ap o4 vss SW1
S10 sens_vout_p sens_bp o3 vss SW1
S11 sens_vout_p sens_an o2 vss SW1
S12 sens_vout_p sens_bn o1 vss SW1
S13 sens_ap sens_vout_n o2 vss SW1
S14 sens_bp sens_vout_n o1 vss SW1
S15 sens_an sens_vout_n o4 vss SW1
S16 sens_bn sens_vout_n o3 vss SW1
.ends


* expanding   symbol:  hall_plate_bhv/hall_plate_bhv.sym # of pins=6
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/hall_plate_bhv/hall_plate_bhv.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/hall_plate_bhv/hall_plate_bhv.sch
.subckt hall_plate_bhv sens_ap sens_bp sens_an sens_bn bin_p bin_n
*.iopin sens_bn
*.iopin sens_an
*.iopin sens_bp
*.iopin sens_ap
*.iopin bin_p
*.iopin bin_n
R1 net1 net2 {rh+0.5*roffset}
R2 net1 net4 {rh}
R3 net2 net3 {rh}
R4 net4 net3 {rh+0.5*roffset}
R5 net9 net2 {rd}
B1 sens_bn net5 V = 0.5*i(Vap)*{sens_i}*(v(bin_p) - v(bin_n))
B2 sens_ap net6 V = 0.5*i(Vbp)*{sens_i}*(v(bin_p) - v(bin_n))
B3 sens_an net8 V = 0.5*i(Vbn)*{sens_i}*(v(bin_p) - v(bin_n))
B4 sens_bp net7 V = 0.5*i(Van)*{sens_i}*(v(bin_p) - v(bin_n))
Vbn net5 net2 0
Vap net6 net1 0
Vbp net7 net4 0
Van net8 net3 0
R6 net9 net1 {rd}
R7 net9 net3 {rd}
R8 net4 net9 {rd}
**** begin user architecture code

.param nw_rsheet = 1000
.param device_l = 25u
.param device_w = 25u
.param r_mismatch = 0.05
.param nw_mu = 0.1
.param hall_factor = 1
.param pi = acos(-1)
.param qnt = 1/(nw_mu*nw_rsheet)
.param g = 1 - 5.0267*exp(-(pi/2)*(device_w+2*device_l)/device_w)
.param rh = (2*nw_rsheet/pi) * ((2*(device_l/device_w) + 2/3)*pi - 2*ln(2))
.param rh_rd_ratio = 2 - (8/pi) * (ln(2) / (2*(device_l/device_w) + 2/3))
.param rd = rh/rh_rd_ratio
.param roffset = r_mismatch*rh
.param sens_i = (g*hall_factor)/qnt

**** end user architecture code
.ends


* expanding   symbol:  clk_gen/clk_gen.sym # of pins=16
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/clk_gen/clk_gen.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/clk_gen/clk_gen.sch
.subckt clk_gen vdd vss clk sp1 o1 phi1 sp2 o2 phi2 o3 sp3 phi3 o4 sp4 phi4 reset_n
*.iopin clk
*.iopin phi1
*.iopin phi2
*.iopin phi3
*.iopin phi4
*.iopin sp1
*.iopin sp2
*.iopin sp3
*.iopin sp4
*.iopin o1
*.iopin o2
*.iopin o3
*.iopin o4
*.iopin vdd
*.iopin vss
*.iopin reset_n
x1 sp4 reset_n clk sp1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffsnq_1
x2 sp1 reset_n clk sp2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
x3 sp2 reset_n clk sp3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
x4 sp3 reset_n clk sp4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
x5 net20 sp1 net1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x6 phi1 net5 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x7 net5 sp2 net6 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x8 phi2 net10 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x9 net10 sp3 net11 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x10 phi3 net15 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x11 net15 sp4 net16 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x12 phi4 net20 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x13 net1 net2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x14 net2 o1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x15 o1 net3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x16 net3 net4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x17 net6 net7 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x18 net7 o2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x19 o2 net8 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x20 net8 net9 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x21 net11 net12 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x22 net12 o3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x23 o3 net13 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x24 net13 net14 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x25 net16 net17 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x26 net17 o4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x27 o4 net18 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x28 net18 net19 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x29 net16 net19 phi4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x30 net11 net14 phi3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x31 net6 net9 phi2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x32 net1 net4 phi1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
.ends


* expanding   symbol:  chopper_bhv/chopper_bhv.sym # of pins=7
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/chopper_bhv/chopper_bhv.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/chopper_bhv/chopper_bhv.sch
.subckt chopper_bhv phi1 vss vin_p phi2 vin_n vout_p vout_n
*.iopin vss
*.iopin vin_p
*.iopin vin_n
*.iopin vout_p
*.iopin vout_n
*.ipin phi1
*.ipin phi2
S1 vout_p vin_p phi1 vss SW1
S2 vout_p vin_n phi2 vss SW1
S3 vout_n vin_n phi1 vss SW1
S4 vout_n vin_p phi2 vss SW1
.ends

**** begin user architecture code
.MODEL SW1 SW
+ VT=1.65 VH=0
+ RON=1 ROFF=1G
**** end user architecture code
.end
